US08648068B2
10.4 (S)-4-(4-fluoro-2-(1-(methylsulfonyl)piperidin-3-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
To a solution of 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (120 mg) at 0° C. was added DIPEA (49 μl) followed by HATU (104 mg) and the solution was stirred for 30 min. A solution of ammonia in methanol (7M; 0.3 ml) was added and the solution allowed to warm to room temperature and stirred for 1 h. The solvent was evaporated and traces of DMF removed by co-evaporation with toluene. The residue was triturated with MeOH and the solid collected by filtration to give the desired product.

reactant | 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 120 mg | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CN(CCC2)S(=O)(=O)C | C20H21FN4O5S2
reactant | DIPEA | 49 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonia | N | H3N
solvent | methanol | 7M, 0.3 ml | CO | CH4O
product | (S)-4-(4-fluoro-2-(1-(methylsulfonyl)piperidin-3-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CN(CCC2)S(=O)(=O)C | C20H22FN5O4S2
